US07259157B2
To a mixture of 4-hydroxy-N-piperidin-3-ylmethyl-benzamide (135 mg, 0.580 mmol) in tetrahydrofuran (5 mL) was added triethylamine (100 μL) and N-benzyloxycarbonyloxysuccinamide (144 mg, 0.580 mmol) and the mixture stirred at rt for 3 h. The reaction was concentrated in vacuo and chromatographed on silica using 50–100% ethyl acetate/hexane to give 3-[(4-hydroxy-benzoylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester as a foam.

reactant | 4-hydroxy-N-piperidin-3-ylmethyl-benzamide | 0.580 mmol, 135 mg | OC1=CC=C(C(=O)NCC2CNCCC2)C=C1 | C13H18N2O2
reactant | triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
reactant | N-benzyloxycarbonyloxysuccinamide | 0.580 mmol, 144 mg | C(C1=CC=CC=C1)OC(=O)ONC(CCC(=O)N)=O | C12H14N2O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[(4-hydroxy-benzoylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CNC(C1=CC=C(C=C1)O)=O | C21H24N2O4
